US07592363B2
3-[3-(5-FLUORO-1H-INDOL-2-YL)PHENYL]-2-(2,4,6-TRIFLUOROBENZYL)-7-(TRIFLUOROMETHYL)-2H-INDAZOLE
A solution of methyl [4-fluoro-2-({3-[2-(2,4,6-trifluorobenzyl)-7-(trifluoromethyl)-2H-indazol-3-yl]phenyl}ethynyl)phenyl]carbamate (0.07 g, 0.12 mmol) and tetrabutylammonium fluoride (0.24 mL, 0.24 mmol, 1M solution in THF) in 2 mL THF was heated at 60° C. for 21 hours. The reaction mixture was concentrated in vacuo and the residue purified by normal phase HPLC (silica, hexane-EtOAC, 19:1) to give 0.045 g of product as a white solid.

reactant | methyl [4-fluoro-2-({3-[2-(2,4,6-trifluorobenzyl)-7-(trifluoromethyl)-2H-indazol-3-yl]phenyl}ethynyl)phenyl]carbamate | 0.12 mmol, 0.07 g | FC1=CC(=C(C=C1)NC(OC)=O)C#CC1=CC(=CC=C1)C=1N(N=C2C(=CC=CC12)C(F)(F)F)CC1=C(C=C(C=C1F)F)F | C31H18F7N3O2
reactant | tetrabutylammonium fluoride | 0.24 mmol, 1M, 0.24 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | THF | 2 mL | C1CCOC1 | C4H8O
product | 3-[3-(5-FLUORO-1H-INDOL-2-YL)PHENYL]-2-(2,4,6-TRIFLUOROBENZYL)-7-(TRIFLUOROMETHYL)-2H-INDAZOLE | 0.045 g | FC=1C=C2C=C(NC2=CC1)C=1C=C(C=CC1)C=1N(N=C2C(=CC=CC12)C(F)(F)F)CC1=C(C=C(C=C1F)F)F | C29H16F7N3
